US08138217B2
5-tert-butyl 1-ethyl 3-[(4-chloromethyl-benzoyl)amino]-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate
4-Chloromethylbenzoyl chloride (5.42 g 28.7 mmol) was added to a suspension of tert-butyl 3-amino-1H-thieno[2,3-c]pyrazole-5-carboxylate (5.94 g, 19.1 mmol) in dry DCM (150 mL) and 2,4,6-collidine (6.94 g, 57.3 mmol) under stirring at 20° C. The resulting suspension was stirred for 3 hours at room temperature. 300 mL of aqueous sodium bicarbonate were then added to the reaction mixture and the organic layer was separated, washed with brine, dried over sodium sulphate and evaporated. The residue was triturated with hexane, filtered and dried at 40° C. under vacuum to give 8.3 g of the title compound.

reactant | 4-Chloromethylbenzoyl chloride | 28.7 mmol, 5.42 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | tert-butyl 3-amino-1H-thieno[2,3-c]pyrazole-5-carboxylate | 19.1 mmol, 5.94 g | NC=1C2=C(NN1)SC(=C2)C(=O)OC(C)(C)C | C10H13N3O2S
reactant | 2,4,6-collidine | 57.3 mmol, 6.94 g | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 5-tert-butyl 1-ethyl 3-[(4-chloromethyl-benzoyl)amino]-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate | 8.3 g | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OCC)SC(=C3)C(=O)OC(C)(C)C)C=C1 | C21H22ClN3O5S
